US08017601B2
N-(4-chlorophenyl)-6-(isoquinolin-5-yl)-1-naphthamide
6-(isoquinolin-5-yl)-1-naphthoyl chloride (0.85 g, 0.27 mmol) was suspended in CH2Cl2 (1 mL) and triethylamine (0.057 mL, 0.4 mmol) was added followed by 4-chloroaniline (33 mg, 0.26 mol). The mixture was stirred at room temperature for 2 h, 0.1 mL of DMF was added and the mixture was stirred for an additional 72 h. A solution of aqueous NaHCO3 was added and mixture was extracted with CH2Cl2. Organic phase was dried, filtered and evaporated. Residue was purified by prep plate (ethyl acetate) to give a white solid. MS (ESI pos. ion) m/z: 409 (M+H). Calc'd Exact Mass for C26H17ClN2O: 408.

reactant | 6-(isoquinolin-5-yl)-1-naphthoyl chloride | 0.27 mmol, 0.85 g | C1=NC=CC2=C(C=CC=C12)C=1C=C2C=CC=C(C2=CC1)C(=O)Cl | C20H12ClNO
reactant | triethylamine | 0.4 mmol, 0.057 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chloroaniline | 0.26 mol, 33 mg | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | N-(4-chlorophenyl)-6-(isoquinolin-5-yl)-1-naphthamide | ClC1=CC=C(C=C1)NC(=O)C1=CC=CC2=CC(=CC=C12)C1=C2C=CN=CC2=CC=C1 | C26H17ClN2O
